.subckt NAND1 A B Out Vss Vdd

.inc tsmc018.lib
.lib standard.mos

M§PMODA Vdd A Out Vdd CMOSP l=1u w=2u
M§PMODB Vdd B Out Vdd CMOSP l=1u w=2u
M§NMODA Out A N001 Vss CMOSN l=1u w=1u
M§NMODB N001 B Vss Vss CMOSN l=1u w=1u

.model NMOS NMOS
.model PMOS PMOS

.ends NAND1