.subckt PG_Generator A B P G Vdd Vss

.inc tsmc018.lib
.lib standard.mos

XU1 Vdd Vss P A B XOR1
XU2 Vdd Vss A B G AND1
.lib AND1.sub
.lib XOR1.sub

.model NMOS NMOS
.model PMOS PMOS

.ends PG_Generator