.subckt 2_Bit_CLA A0 A1 B0 B1 Cin Cout S1 S0 Vdd Vss

.inc tsmc018.lib
.lib standard.mos

XU1 A0 B0 P0 G0 Vdd 0 PG_Generator
XU2 A1 B1 P1 G1 Vdd 0 PG_Generator
XU3 Vdd 0 P0 Cin P0.Cin AND1
XU4 Vdd 0 C1 P0.Cin G0 OR1
XU5 Vdd 0 P1 C1 P1.C1 AND1
XU6 Vdd 0 Cout P1.C1 G1 OR1
XU7 Vdd 0 S0 P0 Cin XOR1
XU8 Vdd 0 S1 P1 C1 XOR1
.lib AND1.sub
.lib OR1.sub
.lib PG_Generator.sub
.lib XOR1.sub

.model NMOS NMOS
.model PMOS PMOS

.ends 2_Bit_CLA