.subckt 8_Bit_CLA A0 A1 A2 A3 A4 A5 A6 A7 B0 B1 B2 B3 B4 B5 B6 B7 Cin Cout S0 S1 S2 S3 S4 S5 S6 S7

.inc tsmc018.lib
.lib standard.mos

XU1 A0 A1 B0 B1 Cin N001 S1 S0 Vdd 0 2_Bit_CLA
XU2 A2 A3 B2 B3 N001 N002 S3 S2 Vdd 0 2_Bit_CLA
XU3 A4 A5 B4 B5 N002 N003 S5 S4 Vdd 0 2_Bit_CLA
XU4 A6 A7 B6 B7 N003 Cout S7 S6 Vdd 0 2_Bit_CLA
V1 Vdd 0 1.8
.lib 2_Bit_CLA.sub

.model NMOS NMOS
.model PMOS PMOS

.ends 8_Bit_CLA