.subckt OR1 Vdd Vss Out A B

.inc tsmc018.lib
.lib standard.mos

XU1 Vdd Vss A N001 NOT1
XU2 Vdd Vss B N002 NOT1
XU3 N001 N002 Out Vss Vdd NAND1
.lib NAND1.sub
.lib NOT1.sub

.model NMOS NMOS
.model PMOS PMOS

.ends OR1