.subckt Shifter_Block V0 V1 V2 V3 V4 V5 V6 V7 S0 S1 S2 S3 S4 S5 S6 S7

.inc tsmc018.lib
.lib standard.mos

R0 S0 0 1m
R1 S1 0 1m
XU1 Vdd 0 V0 N001 NOT1
XU2 Vdd 0 N001 S2 NOT1
XU3 Vdd 0 V1 N002 NOT1
XU4 Vdd 0 N002 S3 NOT1
XU5 Vdd 0 V2 N003 NOT1
XU6 Vdd 0 N003 S4 NOT1
XU7 Vdd 0 V3 N004 NOT1
XU8 Vdd 0 N004 S5 NOT1
XU9 Vdd 0 V4 N005 NOT1
XU10 Vdd 0 N005 S6 NOT1
XU11 Vdd 0 V5 N006 NOT1
XU12 Vdd 0 N006 S7 NOT1
V1 Vdd 0 1.8
.lib NOT1.sub

.model NMOS NMOS
.model PMOS PMOS

.ends Shifter_Block