.subckt Val_Minus_A A0 A1 A2 A3 Cout Val_Minus_A[0] Val_Minus_A[1] Val_Minus_A[2] Val_Minus_A[3] Val_Minus_A[4] Val_Minus_A[5] Val_Minus_A[6] Val_Minus_A[7]

.inc tsmc018.lib
.lib standard.mos

XU1 Inv_A[0] Inv_A[1] Inv_A[2] Inv_A[3] Inv_A[4] Inv_A[5] Inv_A[6] Inv_A[7] B0 B1 B2 B3 B4 B5 B6 B7 Cin Cout Val_Minus_A[0] Val_Minus_A[1] Val_Minus_A[2] Val_Minus_A[3] Val_Minus_A[4] Val_Minus_A[5] Val_Minus_A[6] Val_Minus_A[7] 8_Bit_CLA
XU2 A0 A1 A2 A3 Val_Plus_A[0] Val_Plus_A[1] Val_Plus_A[2] Val_Plus_A[3] Val_Plus_A[4] Val_Plus_A[5] Val_Plus_A[6] Val_Plus_A[7] Val_Plus_A
XU3 Vdd 0 Val_Plus_A[0] Inv_A[0] NOT1
XU5 Vdd 0 Val_Plus_A[1] Inv_A[1] NOT1
XU6 Vdd 0 Val_Plus_A[2] Inv_A[2] NOT1
XU9 Vdd 0 Val_Plus_A[3] Inv_A[3] NOT1
XU4 Vdd 0 Val_Plus_A[4] Inv_A[4] NOT1
XU7 Vdd 0 Val_Plus_A[5] Inv_A[5] NOT1
XU8 Vdd 0 Val_Plus_A[6] Inv_A[6] NOT1
XU10 Vdd 0 Val_Plus_A[7] Inv_A[7] NOT1
V1 Vdd 0 1.8
XU11 B0 B1 B2 B3 B4 B5 B6 B7 Val_Zero
V2 Cin 0 1.8
.lib 8_Bit_CLA.sub
.lib NOT1.sub
.lib Val_Plus_A.sub
.lib Val_Zero.sub

.model NMOS NMOS
.model PMOS PMOS

.ends Val_Minus_A