.subckt Val_Plus_2A A0 A1 A2 A3 Val_Plus_2A[0] Val_Plus_2A[1] Val_Plus_2A[2] Val_Plus_2A[3] Val_Plus_2A[4] Val_Plus_2A[5] Val_Plus_2A[6] Val_Plus_2A[7]

.inc tsmc018.lib
.lib standard.mos

R0 Val_Plus_2A[0] 0 1m
R1 Val_Plus_2A[1] A0 1m
R2 Val_Plus_2A[2] A1 1m
R3 Val_Plus_2A[3] A2 1m
XU1 Vdd 0 A3 N001 NOT1
XU2 Vdd 0 N001 Val_Plus_2A[4] NOT1
XU3 Vdd 0 A3 N002 NOT1
XU4 Vdd 0 N002 Val_Plus_2A[5] NOT1
XU5 Vdd 0 A3 N003 NOT1
XU6 Vdd 0 N003 Val_Plus_2A[6] NOT1
XU7 Vdd 0 A3 N004 NOT1
XU8 Vdd 0 N004 Val_Plus_2A[7] NOT1
V1 Vdd 0 1.8
.lib NOT1.sub

.model NMOS NMOS
.model PMOS PMOS

.ends Val_Plus_2A