.subckt Val_Zero Val_Zero[0] Val_Zero[1] Val_Zero[2] Val_Zero[3] Val_Zero[4] Val_Zero[5] Val_Zero[6] Val_Zero[7]

R0 Val_Zero[0] 0 1m
R1 Val_Zero[1] 0 1m
R2 Val_Zero[2] 0 1m
R3 Val_Zero[3] 0 1m
R4 Val_Zero[4] 0 1m
R5 Val_Zero[5] 0 1m
R6 Val_Zero[6] 0 1m
R7 Val_Zero[7] 0 1m

.ends Val_Zero