.subckt AND1 Vdd Vss A B Out

.inc tsmc018.lib
.lib standard.mos

XU1 Vdd 0 N001 Out NOT1
XU2 A B N001 0 Vdd NAND1
.lib NAND1.sub
.lib NOT1.sub

.model NMOS NMOS
.model PMOS PMOS

.ends AND1