.subckt NOR1 Vdd Vss Out A B

.inc tsmc018.lib
.lib standard.mos

XU1 Vdd Vss N001 A B OR1
XU2 Vdd Vss N001 Out NOT1
.lib NOT1.sub
.lib OR1.sub

.model NMOS NMOS
.model PMOS PMOS

.ends NOR1