.subckt NOT1 Vdd Vss A Out

.inc tsmc018.lib
.lib standard.mos

M§PMODA Vdd A Out Vdd CMOSP l=1u w=2u
M§NMODB Out A Vss Vss CMOSN l=1u w=1u

.model NMOS NMOS
.model PMOS PMOS

.ends NOT1