.subckt Sense_Amplifier SE SE_bar VDD Bit/Vout Bit_bar/_Vout VSS

.inc tsmc018.lib
.lib standard.mos

M1 N001 Bit_bar/_Vout Bit/Vout VDD CMOSP l=0.5u w=2u
M2 Bit/Vout Bit_bar/_Vout N002 VSS CMOSN l=0.5u w=1u
M3 N001 Bit/Vout Bit_bar/_Vout VDD CMOSP l=0.5u w=2u
M4 Bit_bar/_Vout Bit/Vout N002 VSS CMOSN l=0.5u w=1u
M5 VDD SE_bar N001 VDD CMOSP l=0.5u w=1u
M6 N002 SE VSS VSS CMOSN l=0.5u w=3u

.model NMOS NMOS
.model PMOS PMOS

.ends Sense_Amplifier