.subckt XOR1 Vdd Vss Out A B

.inc tsmc018.lib
.lib standard.mos

XU1 A B N001 Vss Vdd NAND1
XU2 A N001 N002 Vss Vdd NAND1
XU3 B N001 N003 Vss Vdd NAND1
XU4 N002 N003 Out Vss Vdd NAND1
.lib NAND1.sub

.model NMOS NMOS
.model PMOS PMOS

.ends XOR1