.subckt inverter VIN VOUT VDD VSS

.inc tsmc018.lib
.lib standard.mos

M2 VOUT VIN VSS VSS CMOSN l=0.18u w=1u
M1 VDD VIN VOUT VDD CMOSP l=0.18u w=2u
.model NMOS NMOS
.model PMOS PMOS

.ends inverter