.subckt transmission_gate V1 V2 _VC VC

.inc tsmc018.lib
.lib standard.mos

M1 V1 VC V2 0 CMOSN l=0.18u w=1u
M2 V2 _VC V1 VDD CMOSP l=0.18u w=2u
V1 VDD 0 1.8
.model NMOS NMOS
.model PMOS PMOS

.ends transmission_gate